US07169791B2
3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid
Utilising the procedure described in example 1c but employing 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid ethyl ester in lieu of 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid ethyl ester, afforded the title compound as a crystalline solid, m.p. 291–295° C.

reactant | 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C18H16N4O2
reactant | 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C19H18N4O2
product | 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | N1=CC(=CC=C1)C1=NC(=NC=C1)NC=1C=C(C(=O)O)C=CC1 | C16H12N4O2
